US06472386B1
Synthesis of Ethyl 5-(3,4,5-Trimethoxyphenyl)isoxazole-3-carboxylate
3′,4′,5′-Trimethoxyacetophenone (98%, 10.89 g) was suspended at −78° C. under an argon atmosphere, and a hexane solution (31.9 mL) of 1.59 M n-butyllithium was slowly added dropwise to the suspension. After 10 minutes, the suspension became homogeneous. Diethyl oxalate (8.16 g) was added dropwise to the homogeneous suspension, and the resultant mixture was stirred at the same temperature for 1 hour. A saturated aqueous solution (5 mL) of ammonium chloride was added to the reaction mixture and warmed to room temperature to conduct extraction with ethyl acetate. The resultant organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain a yellow oil. The yellow oil was dissolved in ethanol (100 mL), and to the solution an aqueous solution (10 mL) of hydroxylamine hydrochloride (3.52 g), and the resultant mixture was refluxed for 1 hour. After the reaction mixture was concentrated under reduced pressure, the residue was diluted with ethyl acetate, washed with water and saturated brine and dried over anhydrous sodium sulfate. After the diluted residue was concentrated under reduced pressure, the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=3:1) to obtain the title compound.

reactant | 3′,4′,5′-Trimethoxyacetophenone | 10.89 g | COC=1C=C(C=C(C1OC)OC)C(C)=O | C11H14O4
reactant | n-butyllithium | 1.59 M | C(CCC)[Li]
reactant | Diethyl oxalate | 8.16 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
reactant | hydroxylamine hydrochloride | 10 mL, 3.52 g | Cl.NO
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | hexane | 31.9 mL | CCCCCC | C6H14
product | Ethyl 5-(3,4,5-Trimethoxyphenyl)isoxazole-3-carboxylate | COC=1C=C(C=C(C1OC)OC)C1=CC(=NO1)C(=O)OCC | C15H17NO6
